US07388031B2
(i) 4-Benzyloxy-3-(N-methylsulphonyl-N-benzylamino)phenyl acetate
A mixture of 7.7 g (0.023 mol) of 4-benzyloxy-3-(N-methylsulphonylamino)phenyl acetate, 4.75 g (0.035 mol) of crushed potassium carbonate and 3.3 ml (0.0276 mol) of benzyl bromide in 150 ml of anhydrous acetone is stirred at reflux temperature for 4 hours. After filtration and evaporation, the compound of the title is obtained, which is recrystallized in ethyl acetate.

reactant | 4-benzyloxy-3-(N-methylsulphonylamino)phenyl acetate | 0.023 mol, 7.7 g | C(C)(=O)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C | C16H17NO5S
reactant | potassium carbonate | 0.035 mol, 4.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.0276 mol, 3.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-Benzyloxy-3-(N-methylsulphonyl-N-benzylamino)phenyl acetate | C(C)(=O)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)S(=O)(=O)C | C23H23NO5S
